US07262198B2
NaH (560 mg, 13.93 mmol, 60% disp. in mineral oil) was washed with hexanes (3×20 mL) in a pressure tube and toluene (6 mL,) was added. The solution was cooled to 0° C. and cyclopentanol (1 g, 11.61 mmol) in toluene (6 mL) was added over 20 min. After stirring at 0° C. for 30 min., 1,4-dibromobutane (1.39 mL, 11.61 mmol) and KI (250 mg) were added. The solution was heated to 100° C. for 14 hours. Upon cooling, the reaction was quenched with NaCl (sat. aq.) and the product extracted with EtOAc. The organic layer was dried over MgSO4, filtered, and concentrated. Purification of the residue via flash column chromatography afforded (4-bromobutoxy)cyclopentane.

reactant | NaH | 13.93 mmol, 560 mg | [H-].[Na+]
reactant | cyclopentanol | 11.61 mmol, 1 g | C1(CCCC1)O | C5H10O
reactant | 1,4-dibromobutane | 11.61 mmol, 1.39 mL | BrCCCCBr | C4H8Br2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | (4-bromobutoxy)cyclopentane | BrCCCCOC1CCCC1 | C9H17BrO
